* Z:\mnt\design.r\spice\examples\3546.asc
L1 N001 OUT1 1.22µ
C1 OUT1 0 22µ
C2 N005 0 1000p Rser=13K
V1 IN 0 5
XU1 IN NC_01 N004 N006 IN IN IN IN IN N002 MP_02 N002 N001 0 0 0 IN 0 N005 N003 NC_03 IN NC_04 IN 0 IN IN NC_05 LTC3546
R1 OUT1 N003 30.1K
R2 N003 0 30.1K
C3 OUT1 N003 100p
L2 N002 OUT2 .56µ
C4 OUT2 0 68µ
C5 N006 0 1000p Rser=13K
R3 OUT2 N004 95.3K
R4 N004 0 30.1K
C6 OUT2 N004 100p
Rload1 OUT1 0 1.2
Rload2 OUT2 0 .83
.tran 350u startup
.lib LTC3546.sub
.backanno
.end
